US08022223B2
Preparation of N-(5-bromo-3-phenoxypyridin-2-yl)-4-(phenylamino)methylthiazol-2-amine
Aniline (0.0352 g, 0.378 mmol) was dissolved in 2 mL NMP at ambient temperature. Cs2CO3 (0.0246 g, 0.0756 mmol) and solid 5-bromo-N-(4-(chloromethyl)thiazol-2-yl)-3-phenoxypyridin-2-amine (0.030 g, 0.0756 mmol) were added to the reaction and the mixture was stirred at ambient temperature overnight. The reaction was concentrated to dryness, dissolved in CH2Cl2, washed with water, dried over Na2SO4, and concentrated to dryness. The residue was purified by preparative HPLC to give the title compound (0.010 g, 29.2% yield) as tan solids. 1H NMR (CDCl3) δ 4.34 (br s, 3H), 6.67-6.74 (m, 4H), 7.07 (d, J=8.0 Hz, 2H), 7.13 (d, J=1.8 Hz, 1H), 7.18 (t, J=7.7 Hz, 2H), 7.24-7.27 (m, 1H), 7.43 (t, J=7.9 Hz, 2H), 8.13 (d, J=1.6 Hz, 1H), 8.74 (br s, 1H).

reactant | Aniline | 0.378 mmol, 0.0352 g | NC1=CC=CC=C1 | C6H7N
reactant | Cs2CO3 | 0.0756 mmol, 0.0246 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5-bromo-N-(4-(chloromethyl)thiazol-2-yl)-3-phenoxypyridin-2-amine | 0.0756 mmol, 0.030 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCl)OC1=CC=CC=C1 | C15H11BrClN3OS
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | N-(5-bromo-3-phenoxypyridin-2-yl)-4-(phenylamino)methylthiazol-2-amine | 0.010 g, 29.2% yield | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CNC1=CC=CC=C1)OC1=CC=CC=C1 | C21H17BrN4OS
